US04472433
A mixture of ethyl 2-(2-nitro-3-chlorophenyl)acetate (10 g.), 2-fluorophenol (5.8 g.), anhydrous potassium carbonate (8.5 g.) and cupric oxide (1 g.) was stirred for 5 hours at 130° C. To the reaction mixture was added conc. hydrochloric acid and water, and the mixture was extracted with benzene. The extract was washed with water, dried over magnesium sulfate and then evaporated under reduced pressure to give oily 2-[2-nitro-3-(2-fluorophenoxy)phenyl]acetic acid.

reactant | ethyl 2-(2-nitro-3-chlorophenyl)acetate | 10 g | [N+](=O)([O-])C1=C(C=CC=C1Cl)CC(=O)OCC | C10H10ClNO4
reactant | 2-fluorophenol | 5.8 g | FC1=C(C=CC=C1)O | C6H5FO
reactant | potassium carbonate | 8.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-[2-nitro-3-(2-fluorophenoxy)phenyl]acetic acid | [N+](=O)([O-])C1=C(C=CC=C1OC1=C(C=CC=C1)F)CC(=O)O | C14H10FNO5
